US06258812B1
1-(4-Chloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride
A mixture of 1.28 g (5 mmol) 1-chloro-4-(4-pyridylmethyl)phthalazine, 0.67 g (5.25 mmol) 4-chloroaniline and 15 ml 1-butanol is heated for 0.5 h at 100 h while stirring in a nitrogen atmosphere. The mixture is then cooled to RT, filtered, and the filtrate washed with 1-butanol and ether. For purification, the crystallizate is dissolved in 40 ml of hot methanol, the solution treated with activated carbon, filtered via Hyflo Super Cel, and the filtrate evaporated to about half its original volume, resulting in the formation of a crystalline precipitate. Aftercooling to 0° C., filtration, washing of the filter residue with ether, and drying under HV for 8 h at 130° C., the title compound is obtained; m.p. >270° C.; 1H NMR (DMSO-d6) 9.80-11.40 (br), 8.89-8.94 (m, 1H), 8.67 (d, 2H), 8.25-8.30 (m, 1H), 8.06-8.17 (m, 2H), 7.87 (d, 2H), 7.69 (d, 2H), 7.49 (d, 2H), 4.81 (s, 2H); ESI-MS: (M+H)+=347.

reactant | 1-chloro-4-(4-pyridylmethyl)phthalazine | 5 mmol, 1.28 g | ClC1=NN=C(C2=CC=CC=C12)CC1=CC=NC=C1 | C14H10ClN3
reactant | 4-chloroaniline | 5.25 mmol, 0.67 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | 1-butanol | 15 ml | C(CCC)O | C4H10O
product | 1-(4-Chloroanilino)-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC=NC=C2)C=C1 | InChI=1S/C20H15ClN4.ClH/c21-15-5-7-16(8-6-15)23-20-18-4-2-1-3-17(18)19(24-25-20)13-14-9-11-22-12-10-14;/h1-12H,13H2,(H,23,25);1H
